US06599925B2
6-Bromo-1-[(dimethylamino)methyl]-2-naphthyl acetate hydrochloride
6-Bromo-1-[(dimethylamino)methyl]-2-naphthol (5.6 g, 0.02 mol) was stirred in methylene chloride (120 mL). Acetyl chloride (3.0 mL, 0.042 mol) was added. The mixture was stirred at room temperature for 1 hour and the solvent was concentrated.

reactant | 6-Bromo-1-[(dimethylamino)methyl]-2-naphthol | 0.02 mol, 5.6 g | BrC=1C=C2C=CC(=C(C2=CC1)CN(C)C)O | C13H14BrNO
reactant | Acetyl chloride | 0.042 mol, 3.0 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-1-[(dimethylamino)methyl]-2-naphthyl acetate hydrochloride | Cl.C(C)(=O)OC1=C(C2=CC=C(C=C2C=C1)Br)CN(C)C | InChI=1S/C15H16BrNO2.ClH/c1-10(18)19-15-7-4-11-8-12(16)5-6-13(11)14(15)9-17(2)3;/h4-8H,9H2,1-3H3;1H
